US04218472
N-Methyl-[spiro(cyclopentane-1,1'-indan)-3'-yliden]acetamide (9.6 g; Swedish Pat. No. 7203905-0) is dissolved in dichloromethane (200 ml) and added to sodium bicarbonate solution (30 ml; 0.5 M). The solution is treated with m-chloroperbenzoic acid (13.76 g of a 50% product) in small portions with stirring at about 20° C. After stirring for an additional 2 hours, the solution is washed with saturated sodium carbonate solution and water and dried with sodium sulphate. The solvent is evaporated and the remaining oil is dissolved in tetrahydrofuran (100 ml). Perchloric acid (70%, 10 drops) is added and the mixture is kept at about 20° C. for 1.5 hour. Evaporation of the solvent in vacuo gives the crude α-hydroxy-N-methyl-[spiro(cyclopentane-1,1'-indene)-3'-yl]acetamide as a viscous oil. A sample is triturated with diisopropyl ether and the crystalline product obtained is recrystallized from this solvent. A colourless product is obtained, melting at 136°-138° C. The crude hydroxyamide is dissolved in anhydrous diethyl ether (200 ml) and added dropwise to a suspension of lithium aluminium hydride (30 g) in anhydrous ether (500 ml). The mixture is stirred at room temperature for 5 days and the excess of hydride is destroyed with ethyl acetate, followed by saturated aqueous sodium sulphate solution. The ether phase is washed with water and dried. Evaporation of the solvent gives the crude title compound, which after crystallization from diisopropyl ether melts at 134° C.

reactant | N-Methyl-[spiro(cyclopentane-1,1'-indan)-3'-yliden]acetamide | CNC(C=C1CC2(C3=CC=CC=C13)CCCC2)=O | C16H19NO
reactant | sodium bicarbonate | 0.5 M, 30 ml | C([O-])(O)=O.[Na+]
reactant | m-chloroperbenzoic acid | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | α-hydroxy-N-methyl-[spiro(cyclopentane-1,1'-indene)-3'-yl]acetamide | OC(C(=O)NC)C1=CC2(C3=CC=CC=C13)CCCC2 | C16H19NO2
